US07951836B2
a) rac-(3-Hydroxy-pyrrolidin-1-yl)-[5-methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-methanone
Prepared in analogy to Example C1 from 5-Methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid (CAS: 845616-82-2) and rac-3-pyrrolidinol. The crude material was crystallized with dichoromethane to provide the title compound as white solid. MS (m/e): 382.3 (M+H+, 100%).

reactant | 5-Methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O[C@H](C(F)(F)F)C | C11H11F3O5S
reactant | rac-3-pyrrolidinol | N1CC(CC1)O | C4H9NO
product | rac-(3-Hydroxy-pyrrolidin-1-yl)-[5-methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-methanone | OC1CN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)O[C@H](C(F)(F)F)C | C15H18F3NO5S
